US04971982
4.5 g of 1-(2-hydroxyphenyl)-3-methyl-1-(3-methyl-2-pyridyl)-2-buten-1-ol were dissolved in 50 ml of diethylene glycol dimethyl ether and heated at reflux for 1 hour. The mixture was allowed to cool to room temperature and then evaporated. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) and then ethyl acetate/petroleum ether (1:2) for the elution to give 2.97 g of 2,2-dimethyl-4-(3-methyl-2-pyridyl)-2H-1-benzopyran in the form of an oil.

reactant | 1-(2-hydroxyphenyl)-3-methyl-1-(3-methyl-2-pyridyl)-2-buten-1-ol | 4.5 g | OC1=C(C=CC=C1)C(C=C(C)C)(O)C1=NC=CC=C1C | C17H19NO2
solvent | diethylene glycol dimethyl ether | 50 ml | COCCOCCOC | C6H14O3
product | 2,2-dimethyl-4-(3-methyl-2-pyridyl)-2H-1-benzopyran | 2.97 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1C)C=CC=C2)C | C17H17NO
